US07163936B2
To a solution of allyl (2R)-4-(chloroacetyl)-2-methyl-3,6-dihydro-1(2 H)-pyridinecarboxylate (0.255 g, 1.0 mmol) in methanol (5 ml) were added at 0–5° C. thioisonicotinamide (5 mg) and ammonium dithiocarbamate (0.22 g, 2.0 mmol). The reaction mixture was raised to room temperature, stirred for 15 minutes and then stirred at 55–60° C. for 1.5 hour. The solvent was removed in vacuo and to the residue was added aqueous 1N NaOH solution to make the solution alkaline. To the solution were added ethyl acetate and hexane, and the mixture was separated with a separating funnel. The aqueous layer was acidified with 6N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed twice with a saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed in vacuo to give allyl (2R)-4-(2-mercapto-1,3-thiazol-4-yl)-2-methyl-3,6-dihydro-1(2 H)-pyridinecarboxylate (170 mg, 59%).

reactant | allyl (2R)-4-(chloroacetyl)-2-methyl-3,6-dihydro-1(2 H)-pyridinecarboxylate | 1.0 mmol, 0.255 g | ClCC(=O)C=1C[C@H](N(CC1)C(=O)OCC=C)C | C12H16ClNO3
reactant | ammonium dithiocarbamate | 2.0 mmol, 0.22 g | C(N)([S-])=S.[NH4+]
solvent | methanol | 5 ml | CO | CH4O
catalyst | thioisonicotinamide | 5 mg | C(C1=CC=NC=C1)(=S)N | C6H6N2S
product | allyl (2R)-4-(2-mercapto-1,3-thiazol-4-yl)-2-methyl-3,6-dihydro-1(2 H)-pyridinecarboxylate | 170 mg, 59% | SC=1SC=C(N1)C=1C[C@H](N(CC1)C(=O)OCC=C)C | C13H16N2O2S2
